US07569600B2
To a solution of 5-(4,4-Dimethyl-cyclohexyl)-3-[(cis-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester (2.25 g, 4.60 mmol) in 23 ml of CH2Cl2 was added at 0° C. methanesulfonyl chloride (1.05 g, 9.20 mmol) followed by triethylamine (1.28 ml, 9.20 mmol). The reaction mixture was stirred at room temperature for 24 h and treated with water. The aqueous Layer was extracted with ethyl acetate and the organic layer was washed with water and brine. The organic layer was dried with sodium sulfate, filtered and concentrated under reduce pressure to give 5-(4,4-Dimethyl-cyclohexyl)-3-[(cis-4-methanesulfonyloxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester (2.56 g, 98%)

reactant | 5-(4,4-Dimethyl-cyclohexyl)-3-[(cis-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester | 4.60 mmol, 2.25 g | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@@H](CC1)O)C1CCC(CC1)(C)C | C28H43NO4S
reactant | methanesulfonyl chloride | 9.20 mmol, 1.05 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 9.20 mmol, 1.28 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | CH2Cl2 | 23 ml | C(Cl)Cl | CH2Cl2
product | 5-(4,4-Dimethyl-cyclohexyl)-3-[(cis-4-methanesulfonyloxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester | 2.56 g, 98% | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@@H](CC1)OS(=O)(=O)C)C1CCC(CC1)(C)C | C29H45NO6S2
